US05883255
12B. (±)-7-[1-[(Iodoacetyl)oxy]propyl]-8-methylindolizino[1,2-b]quinolin-9(11H)-one
To a mixture of (±)-7-[1-[(chloroacetyl)oxy]propyl]-8-methylindolizino[1,2-b]quinolin-9(11H)-one (100 mg, 0.26 mmol) in acetone (10 mL) was added sodium iodide (150 mg, 1.0 mmol), and the resulting solution was heated at reflux for 1 h. Upon cooling, a solid precipitate appeared. The solvent was removed in vacuo, and the residue was partitioned between CH2Cl2 and H2O. The organic extract was washed with H2O (3×), dried over sodium sulfate and concentrated under reduced pressure to afford the title compound. 1H NMR (CDCl3) d 8.35 (s, 1H), 8.22 (d, J=8.2 Hz, 1H), 7.92 (d, J=8.0 Hz, 1H), 7.81 (m, 1H), 7.66 (m, 1H), 7.38 (s, 1H), 5.91 (dd, J=7.9, 6.0 Hz, 1H), 5.26 (two s, 2H), 3.84 (d, J=10.1 Hz, 1H), 3.75 (d, J=10.1 Hz, 1H), 2.36 (s, 3H), 2.10-1.83 (m, 2H), 1.03 (t, J=7.4 Hz, 3H). Anal. Calcd for C21H19IN2O3.1/2 H2O: C, 52.19; H, 4.17; N, 5.80. Found: C, 52.16; H, 4.05; N, 5.39.

reactant | (±)-7-[1-[(chloroacetyl)oxy]propyl]-8-methylindolizino[1,2-b]quinolin-9(11H)-one | 0.26 mmol, 100 mg | ClCC(=O)OC(CC)C1=C(C(N2CC=3C(=NC4=CC=CC=C4C3)C2=C1)=O)C | C21H19ClN2O3
reactant | sodium iodide | 1.0 mmol, 150 mg | [I-].[Na+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | (±)-7-[1-[(Iodoacetyl)oxy]propyl]-8-methylindolizino[1,2-b]quinolin-9(11H)-one | ICC(=O)OC(CC)C1=C(C(N2CC=3C(=NC4=CC=CC=C4C3)C2=C1)=O)C | C21H19IN2O3
